US07932272B2
2-(5-(3-Fluoro-benzyl)-furan-2-yl)-[1,3]dioxolane
n-Butyl lithium (2.66M hexane solution, 25.5 mL, 67.88 mmol) was added dropwise to a solution of 2-(1,3-dioxolan-2-yl)furan (8272 mg, 59.03 mmol) in tetrahydrofuran (160 mL) that had been cooled to −78° C. solution under nitrogen atmosphere, which was then stirred for 10 minutes. To this solution was added a solution of 3-fluorobenzyl bromide (14.50 g, 76.73 mmol) in tetrahydrofuran (60 mL) dropwise, which was then stirred for 1 hour at −78° C., and for 1.25 hours at room temperature. An aqueous solution of saturated ammonium chloride was added to the reaction mixture, which was extracted with diethyl ether. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and then, concentrated in vacuo. The obtained residue was purified by silica gel chromatography (hexane-ethyl acetate), and a mixture of the title compound and 2-(1,3-dioxolane-2-yl)furan (8033 mg), which is the starting material, was obtained.

reactant | n-Butyl lithium | 67.88 mmol, 2.66M, 25.5 mL | C(CCC)[Li]
reactant | 2-(1,3-dioxolan-2-yl)furan | 59.03 mmol, 8272 mg | O1C(OCC1)C=1OC=CC1 | C7H8O3
reactant | 3-fluorobenzyl bromide | 76.73 mmol, 14.50 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 2-(5-(3-Fluoro-benzyl)-furan-2-yl)-[1,3]dioxolane | FC=1C=C(CC2=CC=C(O2)C2OCCO2)C=CC1 | C14H13FO3
